US07381719B2
3-Chloro-4-{4-[(2-thiophen-2-yl-ethylamino)-methyl]-phenoxy}-benzamide
Use 3-chloro-4-(4-formyl-phenoxy)-benzamide (0.20 g, 0.71 mmol), 2-thiophen-2-yl-ethylamine (0.075 mL, 0.64 mmol), sodium borohydride (0.049 g, 1.29 mmol) and methanol (8 mL) in a procedure and purification similar to that of Example 1, to obtain the product (0.24 g, 94%), 2137632. Mass spectrum (ion spray): m/z=387.1 (M+1); 1H NMR (CDCl3) 7.93 (d, J=2.1 Hz, 1H), 7.62 (dd, J=2.1 Hz, 8.7 Hz, 1H), 7.31 (d, J=8.5 Hz, 2H), 7.14 (d, J=5.2 Hz, 1H), 6.97 (d, J=8.3 Hz, 2H), 6.93 (dd, J=3.4 Hz, 5.1 Hz, 1H), 6.88 (d, J=8.7 Hz, 1H), 6.84 (d, J=3.1 Hz, 1H), 6.11 (bs, 2H), 3.81 (s, 2H), 3.05 (t, J=6.7 Hz, 2H), 2.95 (t, J=6.7 Hz, 2H).

reactant | 3-chloro-4-(4-formyl-phenoxy)-benzamide | 0.71 mmol, 0.20 g | ClC=1C=C(C(=O)N)C=CC1OC1=CC=C(C=C1)C=O | C14H10ClNO3
reactant | 2-thiophen-2-yl-ethylamine | 0.64 mmol, 0.075 mL | S1C(=CC=C1)CCN | C6H9NS
reactant | sodium borohydride | 1.29 mmol, 0.049 g | [BH4-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
product | 3-Chloro-4-{4-[(2-thiophen-2-yl-ethylamino)-methyl]-phenoxy}-benzamide | 0.24 g, 94% | ClC=1C=C(C(=O)N)C=CC1OC1=CC=C(C=C1)CNCCC=1SC=CC1 | C20H19ClN2O2S
